US06417213B2
[[(2-Diphenylmethylthio-4,5-dihydronaphtho[1,2-d]thiazol-7-yl)oxy]acetic acid
Using ethyl [(2-mercapto-4,5-dihydronaphto[1,2-d]thiazol-7-yl)oxy]acetate and diphenylmethane bromide, the procedure of Example 1 was otherwise repeated to synthesize the title compound. Yield 50%.

reactant | ethyl [(2-mercapto-4,5-dihydronaphto[1,2-d]thiazol-7-yl)oxy]acetate | SC=1SC2=C(N1)C1=CC=C(C=C1CC2)OCC(=O)OCC | C15H15NO3S2
reactant | diphenylmethane bromide | [Br-].C1(=CC=CC=C1)CC1=CC=CC=C1
product | [(2-Diphenylmethylthio-4,5-dihydronaphtho[1,2-d]thiazol-7-yl)oxy]acetic acid | Yield 50% | C1(=CC=CC=C1)C(SC=1SC2=C(N1)C1=CC=C(C=C1CC2)OCC(=O)O)C2=CC=CC=C2 | C26H21NO3S2
